US08133886B2
6-(2-Hydroxymethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide
To a suspension of 523 mg (1.048 mMol) 4-[5-(4-fluoro-3-trifluoromethyl-phenylcarbamoyl)-naphthalen-2-yloxy]-pyrimidine-2-carboxylic acid ethyl ester in 13.8 ml tert-butanol, 119 mg (3.14 mMol) NaBH4 are added. This mixture is stirred for 2 h at 70° C. and then concentrated in vacuo. The residue is diluted with water and EtOAc, the aq. phase separated off and extracted twice with EtOAc. The organic layers are washed with brine, dried (Na2SO4) and concentrated. Chromatography [Combi Flash; CH2Cl2/(CH2Cl2/tertBuOH 1:1) 99:1→83:17] and trituration from DIPE gives the title compound: Anal. (+0.3H2O+0.4 DIPE): C, H, N, F; MS: [M+1]+=458; TLC (CH2Cl2/acetone 9:1): Rf=0.44.

reactant | 4-[5-(4-fluoro-3-trifluoromethyl-phenylcarbamoyl)-naphthalen-2-yloxy]-pyrimidine-2-carboxylic acid ethyl ester | 1.048 mMol, 523 mg | C(C)OC(=O)C1=NC=CC(=N1)OC1=CC2=CC=CC(=C2C=C1)C(NC1=CC(=C(C=C1)F)C(F)(F)F)=O | C25H17F4N3O4
reactant | NaBH4 | 3.14 mMol, 119 mg | [BH4-].[Na+]
solvent | tert-butanol | 13.8 ml | C(C)(C)(C)O | C4H10O
product | 6-(2-Hydroxymethyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | FC1=C(C=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC(=NC=C1)CO)C(F)(F)F | C23H15F4N3O3
